US06071928
Sodium borohydride (12 mg, 0.32 mmol) was added to a solution of (±)-(3R*, 5R*)-7-phenacyl-3-(2-methoxy-5-(2-trifluoromethyl-1H-imidazol-1-yl)phenyl)-1-oxa-7-azaspiro[4,5]decane (105.9 mg, 0.212 mmol) in ethanol (2 ml) and the mixture stirred at room temperature for 4 hours. The mixture was poured into water (50 ml) and extracted with ethyl acetate (2×20 ml). The extracts were washed with brine (20 ml), combined, dried (MgSO4) and concentrated. The residue was purified by flash chromatography, eluting with 5% then 7.5% methanol in dichloromethane to give (±)-(3R*, 5R*, 12S*/R*)-7-(2-hydroxy-2-phenylehtyl)-3-(2-methoxy-5-(2-trifluoromethyl-1H-imidazol-1-yl)phenyl)-1-oxa-7-azaspiro[4,5]decane (86.0 mg, 81%). The free base was dissolved in ether and treated with oxalic acid (15.7 mg) in ether. The resulting precipitate was collected under suction, washed with ether and dried in vacuo to afford the title compound (75.1 mg); (Found: C, 58.89; H, 5.11; N, 6.87. C27H30F3N3O3. C2H2O4 requires C, 58.88; H, 5.45; N, 7.10%; δH (360 MHz, D2O) 1.72-2.37 (6H, m), 3.11 (2H, m), 3.34-3.96 (10H, m), 4.27 (1H, m), 5.25 (1H, m), 7.13 (1H, d, J 9.3 Hz, 3'-H), 7.22 (1H, br s, imidazole H), 7.36 (3H, m, ArH), 7.47 (5H, m, ArH); m/z (ES+) 502 ([M+H]+).

reactant | Sodium borohydride | 0.32 mmol, 12 mg | [BH4-].[Na+]
reactant | 7-phenacyl-3-(2-methoxy-5-(2-trifluoromethyl-1H-imidazol-1-yl)phenyl)-1-oxa-7-azaspiro[4,5]decane | 0.212 mmol, 105.9 mg | C(C(=O)C1=CC=CC=C1)N1CC2(CC(CO2)C2=C(C=CC(=C2)N2C(=NC=C2)C(F)(F)F)OC)CCC1 | C27H28F3N3O3
reactant | water | 50 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 7-(2-hydroxy-2-phenylehtyl)-3-(2-methoxy-5-(2-trifluoromethyl-1H-imidazol-1-yl)phenyl)-1-oxa-7-azaspiro[4,5]decane | 86.0 mg, 81% | OC(CN1CC2(CC(CO2)C2=C(C=CC(=C2)N2C(=NC=C2)C(F)(F)F)OC)CCC1)C1=CC=CC=C1 | C27H30F3N3O3
